US04576933
3-Octadecyl-2-morpholinocarbonyl-1-tritylglycerol
3-Octadecyl-1-tritylglycerol (2.93 g) and 0.8 g of pyridine were dissolved in 10 ml of dichloromethane, and, under ice-cooling and stirring, 0.78 g of phenyl chlorocarbonate was added dropwise. The mixture was stirred under ice-cooling for 30 minutes and at room temperature for an hour, followed by addition of 20 ml of dichloromethane and water. The organic layer was separated, washed with aqueous sodium hydrogen carbonate and water, and dried. The solvent was then distilled off and 5 ml of morpholine was added to the residue. The mixture was allowed to stand at room temperature overnight and the morpholine was distilled off. The residue was recrystallized from n-hexane to give 2.7 g of the above-identified compound melting at 78°-79° C.

reactant | 3-Octadecyl-1-tritylglycerol | 2.93 g | C(CCCCCCCCCCCCCCCCC)OCC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C40H58O3
reactant | pyridine | 0.8 g | N1=CC=CC=C1 | C5H5N
reactant | phenyl chlorocarbonate | 0.78 g | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-Octadecyl-2-morpholinocarbonyl-1-tritylglycerol | 2.7 g | C(CCCCCCCCCCCCCCCCC)OCC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC(=O)N1CCOCC1 | C45H65NO5
